US05134111
(c) Preparation of 1-(1-benzyloxy-8-methyl-2-naphthyl)-1-methyl-1-ethanol
4.8 g of 1'-benzyloxy-8'-methyl-2'-acetonaphthone was dissolved in 200 ml of tetrahydrofuran and cooled down to -78° C. At the temperature, 28 ml of a tetrahydrofuran solution of 1M methylmagnesium bromide was added, followed by returning to room temperature. It was agitated at room temperature for 72 hours and was further reacted at 80° C. for 2 hours. The reaction solution was cooled down to 0° C., to which a saturated ammonium chloride aqueous solution was added portion by portion, followed by extraction with ethyl acetate. The resultant organic phase was washed with a saturated saline solution, dried with anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (10% ethyl acetate/hexane) to obtained 1.8 g of the captioned compound as a brown oily substance.

reactant | 1'-benzyloxy-8'-methyl-2'-acetonaphthone | 4.8 g | C(C1=CC=CC=C1)OC1=C(C=CC2=CC=CC(=C12)C)C(C)=O | C20H18O2
reactant | methylmagnesium bromide | 1M | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
product | 1-(1-benzyloxy-8-methyl-2-naphthyl)-1-methyl-1-ethanol | 1.8 g | C(C1=CC=CC=C1)OC1=C(C=CC2=CC=CC(=C12)C)C(C)(O)C | C21H22O2
